US07541374B2
4.76 g of hydrazine hydrate was dissolved to 160 ml of ethanol, and it was cooled to 0° C. 14.21 g of ethyl 2,2,2-trifluoroacetate was dropped to it over the period of 30 minutes, followed by stirring at 0° C. for 1 hour. 9.89 g of formamidine acetic acid salt was added to the reaction mixture, followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure. 200 ml of acetic acid was added to the residue, followed by stirring at 100° C. for 5 hours. The reaction mixture which was cooled to room temperature was concentrated under reduced pressure. Saturated aqueous solution of sodium hydrogen carbonate was added to the residue so as to be pH 6. And then it was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from hexane to obtain 5.44 g of 3-(trifluoromethyl)-1H-1,2,4-triazole.

reactant | hydrazine hydrate | 4.76 g | O.NN
reactant | ethyl 2,2,2-trifluoroacetate | 14.21 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | formamidine acetic acid salt | 9.89 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 3-(trifluoromethyl)-1H-1,2,4-triazole | 5.44 g | FC(C1=NNC=N1)(F)F | C3H2F3N3
